US06472388B2
4-(3,4-Dichlorophenyl)-thiomorpholin-3-one
Under a nitrogen atmosphere in a flame-dried flask, sodium hydride (72 mg, 1.79 mmol, 60% oil dispersion) was washed with hexanes and then treated with 6 mL of anhydrous DMF, and cooled to 0° C. Thiomorpholin-3-one (200 mg, 1.71 mmol) was added in one portion with stirring. After gas evolution had stopped (ca. 30 min), 4-iodo-1,2-dichlorobenzene (700 mg. 2.56 mmol) was added, followed after 5 minutes by copper (I) bromide (490 mg, 3.42 mmol). After heating at 75° C. overnight, the mixture was partitioned between ethyl acetate and 1N lithium chloride, filtered through diatomaceous earth and combined with additional ethyl acetate washes of the diatomaceous earth filter cake. The organic layers were washed with additional 1N lithium chloride, brine (saturated sodium chloride) and dried over calcium sulfate (CaSO4). Concentration in vacuo gave 363 mg of light brown oil which was flash chromatographed (30-50% ethyl acetate in hexanes) to give a white solid, 108 mg.

reactant | sodium hydride | 1.79 mmol, 72 mg | [H-].[Na+]
reactant | Thiomorpholin-3-one | 1.71 mmol, 200 mg | N1C(CSCC1)=O | C4H7NOS
reactant | 4-iodo-1,2-dichlorobenzene | 2.56 mmol, 700 mg | IC1=CC(=C(C=C1)Cl)Cl | C6H3Cl2I
catalyst | copper (I) bromide | 3.42 mmol, 490 mg | [Cu]Br
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 4-(3,4-Dichlorophenyl)-thiomorpholin-3-one | 363 mg | ClC=1C=C(C=CC1Cl)N1C(CSCC1)=O | C10H9Cl2NOS
